US03978057
3,6-dichloro-4-allylamino pyridazine
To a stirred solution of 91.7 g of 3,4,6-trichloropyridazine in 1000 ml of ethanol is added slowly with cooling 85.9 g of allylamine. After stirring 2 hours at room temperature, the mixture is cooled and the resultant precipitate 3,6-dichloro-4-allylamino pyridazine is collected by filtration. Concentration of the filtrate to 200 ml gives a second crop and concentration to 100 ml gives a third crop; m.p. 95° to 98°C.

reactant | 3,4,6-trichloropyridazine | 91.7 g | ClC=1N=NC(=CC1Cl)Cl | C4HCl3N2
reactant | allylamine | 85.9 g | C(C=C)N | C3H7N
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 3,6-dichloro-4-allylamino pyridazine | ClC=1N=NC(=CC1NCC=C)Cl | C7H7Cl2N3
